US04057647
Grignard solution, prepared from 3.11 g. of 4-(1-bromo-2-propyl)-2-propyl)-2',4'-difluorobiphenyl, in 40 ml. of THF is added slowly to a solution of 1.2 g. of ethyl chloroformate in 20 ml. of THF. 15 ml. of concentrated hydrochloric acid are added. The mixture is heated under reflux for 24 hours and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 2',4'-difluorobiphenyl | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
